US04107438
a. Ethyl 4-(p-chlorophenylthio)-butyrate
14.5 g (0.1 mol) of p-chlorothiophenol are added at 0° C to a solution of 5.4 g (0.1 mol) of sodium methylate in 50 ml of methanol and thereafter 19.5 g (0.1 mol) of ethyl γ-bromobutyrate dissolved in 40 ml of methanol are added dropwise at 20° C, whilst stirring. The mixture is heated for 2 hours to the reflux temperature and is then evaporated in vacuo, the residue is extracted with ether, the extract is washed with water and dried, and the ether is evaporated. 24 g (93%) of a white oil are obtained.

reactant | p-chlorothiophenol | 0.1 mol, 14.5 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | sodium methylate | 0.1 mol, 5.4 g | C[O-].[Na+]
reactant | ethyl γ-bromobutyrate | 0.1 mol, 19.5 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | Ethyl 4-(p-chlorophenylthio)-butyrate | 24 g, 93% | ClC1=CC=C(C=C1)SCCCC(=O)OCC | C12H15ClO2S
